US04692182
2-[[2-Chloro-4-[(2,4-dichlorophenoxy)methylcarbonylhydrazo]phenyl]methyl-4,4-dimethyl-3-isoxazolidinone
A stirred solution of 2-[(2-chloro-4-hydrazinophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone hydrochloride (1.5 g, 0.0049 mole) and triethylamine (1.4 ml) in tetrahydrofuran (100 ml) was cooled to 10° C. and 2,4-dichlorophenoxyacetyl chloride (0.80 g, 0.0067 mole) was added in one portion. The reaction mixture was stirred overnight at ambient temperature. Triethylamine hydrochloride was removed by filtration, and the filtrate concentrated under reduced pressure. The residue was chromatographed on silica gel, eluting with 60:40 ethyl acetate:heptane. Appropriate fractions were combined and concentrated under reduced pressure. The residual solid was recrystallized from ethyl acetate:heptane to yield 2-[[2-chloro-4-[(2,4-dichlorophenoxy)methylcarbonylhydrazo]phenyl]methyl]-4,4-dimethyl-3-isoxaolidinone as a yellow solid; m.p. 149°-150° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2-[(2-chloro-4-hydrazinophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone hydrochloride | 0.0049 mole, 1.5 g | Cl.ClC1=C(C=CC(=C1)NN)CN1OCC(C1=O)(C)C
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorophenoxyacetyl chloride | 0.0067 mole, 0.80 g | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | [2-Chloro-4-[(2,4-dichlorophenoxy)methylcarbonylhydrazo]phenyl]methyl-4,4-dimethyl-3-isoxazolidinone | ClC1=C(C=CC(=C1)NNC(=O)COC1=C(C=C(C=C1)Cl)Cl)CN1OCC(C1=O)(C)C | C20H20Cl3N3O4
